US06180636B2
With ice-cooling, 1.9 g of manganese dioxide (85%) are added to a suspension of 715 mg (2.6 mmol) of 4-(3-chloroanilino)-6-hydroxymethyl-7H-pyrrolo[2,3-d]pyrimidine in 170 ml of methylene chloride and the mixture is stirred at RT for 20 h. 20 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU) are then added to the reaction mixture, and it is stirred for 1 h and then filtered through Hyflo. The filtration residue is again stirred (1 h) in 50 ml of methylene chloride/DMPU (1:1) and again filtered. The two filtrates are combined, evaporated and taken up in ethyl acetate/THF and water. The aqueous phases are extracted twice with ethyl acetate; the organic phases are washed 4 times with water and brine, dried (MgSO4) and evaporated down to a residual volume of ≈20 ml. Addition of diethyl ether and filtration yields 4-(3-chloroanilino)-6-formyl-7H-pyrrolo[2,3-d]pyrimidine; HPLC: tRet(Grad20)=10.1; TLC-Rf=0.24 (CH2Cl2/methanol [10:1]).

reactant | 4-(3-chloroanilino)-6-hydroxymethyl-7H-pyrrolo[2,3-d]pyrimidine | 2.6 mmol, 715 mg | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)CO)C=CC1 | C13H11ClN4O
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 20 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | methylene chloride | 170 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 1.9 g | [O-2].[O-2].[Mn+4]
product | 4-(3-chloroanilino)-6-formyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C=O)C=CC1 | C13H9ClN4O
